US05208223
2-[(Hexadecyloxy)methyl]-4-penten-1-ol
To a suspension of 19.1 g of 50% sodium hydride under argon in 300 ml of N,N-dimethylformamide is added dropwise over a period of 1 hour, with stirring a solution of 37 g of 4-penten-1-ol, 2-methanol (prepared as described by B. K. Wasson, et. al., J. Chem. Soc., 39, 923 (1961)) in 200 ml of tetrahydrofuran. After stirring another 30 minutes, 126.34 g of hexadecyloxytosylate is added followed by 500 ml of tetrahydrofuran. This mixture is stirred for 2.5 hours, then heated to 80° C. for 20 minutes and then at room temperature overnight. Water is added and the mixture extracted with ether. The ether extract is dried and then evaporated. The residue is distilled using a Kugelrohr. The fraction distilling at 200°-210° C. 1 mm is collected, purified by chromatography and then redistilled, to give 11.35 g of the desired compound.

reactant | sodium hydride | 19.1 g | [H-].[Na+]
reactant | 4-penten-1-ol | 37 g | C(CCC=C)O | C5H10O
reactant | hexadecyloxytosylate | 126.34 g | C(CCCCCCCCCCCCCCC)OC1=C(S(=O)(=O)[O-])C=CC(=C1)C
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
product | 2-[(Hexadecyloxy)methyl]-4-penten-1-ol | 11.35 g | C(CCCCCCCCCCCCCCC)OCC(CO)CC=C | C22H44O2
